US06696473B2
To a 250 mL flask was added 3-aminobenzonitrile (0.59 g, 5.0 mmol), CHCl3 (25 mL) and saturated sodium bicarbonate (25 mL). To the well-stirred mixture was added dropwise thiophosgene (0.39 mL, 5.1 mmol). After 2 h butylamine (0.50 mL, 5.1 mmol) was added dropwise and stirred 1 h. The reaction mixture was then extracted with CHCl3, concentrated under reduced pressure, and chromatographed (silica gel, 2:98 MeOH/DCM) to yield 1-butyl-3-(3-cyanophenyl)thiourea (1.02 g, 87%) as a white solid: TLC (2:98 MeOH/DCM Rf 0.47).

reactant | 3-aminobenzonitrile | 5.0 mmol, 0.59 g | NC=1C=C(C#N)C=CC1 | C7H6N2
reactant | sodium bicarbonate | 25 mL | C([O-])(O)=O.[Na+]
reactant | thiophosgene | 5.1 mmol, 0.39 mL | C(=S)(Cl)Cl | CCl2S
reactant | butylamine | 5.1 mmol, 0.50 mL | C(CCC)N | C4H11N
solvent | CHCl3 | 25 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-butyl-3-(3-cyanophenyl)thiourea | 1.02 g, 87% | C(CCC)NC(=S)NC1=CC(=CC=C1)C#N | C12H15N3S
